US05605923
2e. 2-Carbomethoxy-4-(3,4-bisdifluoromethoxyphenyl)-4-cyanocyclohexan-1-one
To a solution of dimethyl 4-(3,4-bisdifluoromethoxyphenyl)-4-cyanopimelate (45.32 g, 107 mmol) in dry 1,2-dimethoxyethane (450 mL) under an argon atmosphere was added sodium hydride (80% dispersion in mineral oil, 13 g, 432 mmol). The resulting mixture was refluxed for 1 h, was cooled to room temperature was quenched with water and was concentrated. The mixture was partitioned between ether and acidic brine, was extracted twice with ether, the organic layer was dried (magnesium sulfate) and the solvent was removed in vacuo. The residue was purified by flash chromatography, eluting with 3:1 hexanes/ethyl acetate, to provide a pale-orange oil (19.5 g, 46.6%).

reactant | dimethyl 4-(3,4-bisdifluoromethoxyphenyl)-4-cyanopimelate | 107 mmol, 45.32 g | FC(OC=1C=C(C=CC1OC(F)F)C(CCC(=O)OC)(CCC(=O)OC)C#N)F | C18H19F4NO6
reactant | sodium hydride | 432 mmol, 13 g | [H-].[Na+]
solvent | 1,2-dimethoxyethane | 450 mL | COCCOC | C4H10O2
product | 2-Carbomethoxy-4-(3,4-bisdifluoromethoxyphenyl)-4-cyanocyclohexan-1-one | 19.5 g, 46.6% | C(=O)(OC)C1C(CCC(C1)(C#N)C1=CC(=C(C=C1)OC(F)F)OC(F)F)=O | C17H15F4NO5
